US08258130B2
A solution of 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid (300 mg, 1.38 mmol) and 4-(1-amino-5-fluoro-1H-indol-3-yl)-2-methyl-butan-2-ol (325 mg, 1.38 mmol) in DMF (5 mL) is stirred at 50° C. for 1 h. The mixture is treated with DMTMM (380 mg, 1.38 mmol) and stirred at 50° C. for 2 h. The mixture is diluted with saturated aqueous Na2CO3 (50 mL), and extracted with EtOAc (3×50 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 0%-7% MeOH in DCM to afford 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid [5-fluoro-3-(3-hydroxy-3-methyl-butyl)-indol-1-yl]-amide (200 mg, 33%). MS: 435 (M+H); 1H NMR (300 MHz, CD3OD): δ 9.26 (s, 1H), 9.09 (d, 2H), 7.70 (t, 1H), 7.29 (m, 2H), 7.22 (s, 1H), 7.01 (m, 1H), 2.90 (s, 3H), 2.82 (m, 2H), 1.91 (m, 2H), 1.31 (s, 6H).

reactant | 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid | 1.38 mmol, 300 mg | CC1=NC(=NC=C1C(=O)O)C1=NC=CC=N1 | C10H8N4O2
reactant | 4-(1-amino-5-fluoro-1H-indol-3-yl)-2-methyl-butan-2-ol | 1.38 mmol, 325 mg | NN1C=C(C2=CC(=CC=C12)F)CCC(C)(O)C | C13H17FN2O
reactant | DMTMM | 1.38 mmol, 380 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Na2CO3 | 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid [5-fluoro-3-(3-hydroxy-3-methyl-butyl)-indol-1-yl]-amide | 200 mg, 33% | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=NC=CC=N1)C)CCC(C)(C)O | C23H23FN6O2
